US04649215
A3 2-trans-Octenal (b.p. =65°-69° C./16 mbar)
from 20 g of hexanal and 42.6 g of formylmethylenetriphenylphosphorane.

reactant | hexanal | 20 g | C(CCCCC)=O | C6H12O
reactant | formylmethylenetriphenylphosphorane | 42.6 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
product | 2-trans-Octenal | C(\C=C\CCCCC)=O | C8H14O
